US05147893
trans-2,6-bis(1,1-Dimethylethyl)-4-[(2-hydroxycyclohexyl)thio]phenol
2,6-bis(1,1-Dimethylethyl)-4-mercaptophenol (12.8 g, 0.054 moles) was added to a solution of sodium ethoxide [prepared from sodium (2.5 g, 0.108 mole)] in ethyl alcohol (75 ml). Cyclohexene oxide (5.15 g, 0.0525 mole) was added and the reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was poured into 10% hydrochloric acid (250 ml) and the mixture was extracted twice with 200 ml of ethyl ether. The combined ethyl ether extracts were washed twice with 25 ml of water, dried over magnesium sulfate, filtered and concentrated in vacuo to a yellow oil. The product was purified by silica get chromatography and recrystallized from methyl alcohol/water, m.p. ca 91° C. The structure was supported by NMR, infrared spectroscopy, and elemental analysis.

reactant | 2,6-bis(1,1-Dimethylethyl)-4-mercaptophenol | 0.054 moles, 12.8 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | sodium ethoxide | 0.108 mole, 2.5 g | [O-]CC.[Na+]
reactant | Cyclohexene oxide | 0.0525 mole, 5.15 g | C12C(CCCC1)O2 | C6H10O
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | ethyl alcohol | 75 ml | C(C)O | C2H6O
product | trans-2,6-bis(1,1-Dimethylethyl)-4-[(2-hydroxycyclohexyl)thio]phenol | CC(C)(C)C1=C(C(=CC(=C1)S[C@H]1[C@@H](CCCC1)O)C(C)(C)C)O | C20H32O2S
